US07820670B2
Step A: 2-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)ethanol
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 2-aminoethanol according to general procedure 1 providing the intermediate (78 mg, 32%) as a white solid: Rf=0.41 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.55 (d, J=9.7 Hz, 1H), 7.40 (s, 1H), 6.73 (d, J=9.7 Hz, 1H), 3.80 (t, J=5.7 Hz, 2H), 3.52 (t, J=5.7 Hz, 2H); ES-MS: (M+H)=257, 259 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 2-aminoethanol | NCCO | C2H7NO
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 2-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)ethanol | BrC1=CN=C2N1N=C(C=C2)NCCO | C8H9BrN4O
